US07393959B2
A solution of 2-(1H-pyrrol-3-yl)-1,3-thiazole (0.100 g, 0.67 mmol) 3-(3-iodophenyl)pyridine (0.248 g, 0.8 mmol), copper(I) iodide (0.038 g, 0.2 mmol), 1,10-Phenanthroline (0.360 g, 2 mmol), potassium phosphate (0.440 g, 2.0 mmol) in dioxane (2 mL) was heated to 200° C. for ½ hr under microwave irradiation. The reaction mixture was quenched with H2O (30 mL), then extracted with EtOAc (3×30 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude purified by liquid chromatography on silica gel using an ISCO single channel system (EtOAc 100%) to give 2-{2-methoxy-4-[3-(1,3-thiazol-2-yl)-1H-pyrrol-1-yl]phenyl}pyridine as a slightly yellow oil. The free base in anhydrous diethyl ether was treated with 1.5 equivalent HCL (1M in Ether) to give HCl salt.

reactant | 2-(1H-pyrrol-3-yl)-1,3-thiazole | 0.67 mmol, 0.100 g | N1C=C(C=C1)C=1SC=CN1 | C7H6N2S
reactant | 1,10-Phenanthroline | 2 mmol, 0.360 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | potassium phosphate | 2.0 mmol, 0.440 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.2 mmol, 0.038 g | [Cu]I
product | 2-{2-methoxy-4-[3-(1,3-thiazol-2-yl)-1H-pyrrol-1-yl]phenyl}pyridine | COC1=C(C=CC(=C1)N1C=C(C=C1)C=1SC=CN1)C1=NC=CC=C1 | C19H15N3OS
